US04606757
6-Methylthio-2-(diphenoxymethyl)pyridine
To a mixture of sodium methoxide (made from 100 ml (2.47 m) of methanol and 1.50 g (0.652 m) of sodium metal) which had been cooled to 13° C. was added 7.0 ml (0.126 m) of methylmercaptan. The mixture was allowed to warm to room temperature and then 20.0 g of 6-chloro-2-(diphenoxymethyl)pyridine and 150 ml of dimethylsulfoxide was added thereto. The mixture was heated to 90° C. and after 4 days at this temperature, the reaction mixture was cooled to room temperature and poured into 300 ml of ice. The solution was extracted with methylene chloride and the extract was dried over magnesium sulfate and the solvent stripped off under reduced pressure. The residue was further purified using preparative high pressure liquid chromatography with a 2:98 mixture of ethylacetate and hexane. The oil thus obtained crystallized in n-hexane and was purified by recrystallization from n-hexane leaving the above named compound as a white solid in a yield of 49 g (98 percent pure). The product melted at 58°-59° C. and its structure was confirmed by its NMR spectrum. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 70.42, 5.19 and 4.20 percent, respectively, as compared with the theoretical contents of 70.59, 5.26 and 4.33 percent, respectively, as calculated for the above named compound (Compound 3).

reactant | sodium methoxide | 100 ml, 1.50 g | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | methylmercaptan | 7.0 ml | CS | CH4S
reactant | 6-chloro-2-(diphenoxymethyl)pyridine | 20.0 g | ClC1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H14ClNO2
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 6-Methylthio-2-(diphenoxymethyl)pyridine | CSC1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C19H17NO2S
